US05597918
A mixture of 4.7 g of N-methylformanilide in 3.3 ml of phosphrus oxychloride was stirred at room temperature for an hour and 5.4 g of 2-(4-methylphenyl)-2,5,6,7-tetrahydro-3H-thieno-[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one was added thereto. After stirring at room temperature for 2 hours, the mixture was poured into ice-cold water and extracted with chloroform. The extract was washed with water, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was chromatographed on a silica gel column using a mixed solvent of hexane and ethyl acetate (2:1) as an eluent. The solid was recrystallized from a mixed solvent of ethanol and ethyl acetate to give 3.5 g of 9-formyl-2-(4-methylphenyl)-2,5,6,7-tetrahydro-3H-thieno-[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one as a pale brown powder, melting at 127°-129° C.

reactant | N-methylformanilide | 4.7 g | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | 2-(4-methylphenyl)-2,5,6,7-tetrahydro-3H-thieno-[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one | 5.4 g | CC1=CC=C(C=C1)N1N=C2C(=CC1=O)CCCC1=C2C=CS1 | C18H16N2OS
solvent | oxychloride | 3.3 ml | O(Cl)Cl | Cl2O
product | 9-formyl-2-(4-methylphenyl)-2,5,6,7-tetrahydro-3H-thieno-[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one | 3.5 g | C(=O)C1=CC2=C(CCCC=3C2=NN(C(C3)=O)C3=CC=C(C=C3)C)S1 | C19H16N2O2S
